### PR TITLE
[Merged by Bors] - feat: unit equivalences

### PR DESCRIPTION
**Pull request by ericrbg**
Useful for Wedderburn's little theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+such as centralizers and stabilizers. These are mainly useful to prove Wedderburn's little theorem.
+
+-/
+
+variable {D : Type*}
+
+/-- The stabilizer of `Dˣ` acting on itself by conjugation at `x : Dˣ` is exactly the
+units of the centralizer of `x : D`. -/
+def unitsCentralizerEquiv [Ring D] (x : Dˣ) :
+ MulAction.stabilizer (ConjAct Dˣ) x ≃* (Subring.centralizer ({↑x} : Set D))ˣ where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:22]: I would assume the existing proof goes through more generally as
```suggestion
def unitsCentralizerEquiv [Monoid D] (x : Dˣ) :
 MulAction.stabilizer (ConjAct Dˣ) x ≃* (Submonoid.centralizer ({↑x} : Set D))ˣ where
```

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- For a monoid, the units of the center inject into the center of the units. This is not an
+equivalence in general; one case when it is is for groups with zero, which is covered in
+`centerUnitsEquivUnitsCenter`. -/
+@[simps]
+def unitsCenterToCenterUnits [Monoid D] : (Submonoid.center D)ˣ →* Submonoid.center (Dˣ) where
+  toFun u := ⟨Units.map (Submonoid.center D).subtype u, fun r ↦
+      by ext; simpa only [Units.coe_map, Units.val_mul] using u.1.2 _⟩
+  map_one' := by rfl
+  map_mul' _ _ := by ext; rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:51]:
```suggestion
def unitsCenterToCenterUnits [Monoid D] : (Submonoid.center D)ˣ →* Submonoid.center (Dˣ) :=
  (Units.map (Submonoid.center D).subtype).codRestrict _ <| fun u r ↦ Units.ext <| u.1.prop r
```

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+`centerUnitsEquivUnitsCenter`. -/
+def unitsCenterToCenterUnits [Monoid D] : (Submonoid.center D)ˣ →* Submonoid.center (Dˣ) :=
+(Units.map (Submonoid.center D).subtype).codRestrict _ <| fun u r ↦ Units.ext <| u.1.prop r
+
+theorem unitsCenterToCenterUnits_injective [Monoid D] :
+  Function.Injective (unitsCenterToCenterUnits D) := by
+  intros a b h
+  ext
+  simp only [unitsCenterToCenterUnits, MonoidHom.codRestrict_apply, Subtype.mk.injEq] at h
+  exact Units.ext_iff.mp h
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:54]:
```suggestion
theorem unitsCenterToCenterUnits_injective [Monoid D] :
    Function.Injective (unitsCenterToCenterUnits D) :=
  fun _a _b h => Units.ext <| Subtype.ext <| congr_arg (Units.val ∘ Subtype.val) h
```

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
...
+such as centralizers and stabilizers. These are mainly useful to prove Wedderburn's little theorem.
+
+-/
+
+variable {D : Type*}
+
+/-- The stabilizer of `Dˣ` acting on itself by conjugation at `x : Dˣ` is exactly the
+units of the centralizer of `x : D`. -/
+def unitsCentralizerEquiv [Monoid D] (x : Dˣ) :
+ MulAction.stabilizer (ConjAct Dˣ) x ≃* (Submonoid.centralizer ({↑x} : Set D))ˣ where
```
Comment (alreadydone) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:22]:
```suggestion
    MulAction.stabilizer (ConjAct Dˣ) x ≃* (Submonoid.centralizer ({↑x} : Set D))ˣ where
```

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+      simp only [ConjAct.smul_def, ConjAct.ofConjAct_toConjAct, mul_inv_eq_iff_eq_mul]
+      exact Units.ext <| (u.1.2 x <| Set.mem_singleton _).symm⟩
+  left_inv _ := by ext; rfl
+  right_inv _ := by ext; rfl
+  map_mul' := map_mul _
+
+/-- `unitsCentralizerEquiv` for a `Ring`. Restated for Wedderburn's little theorem. -/
+def unitsCentralizerEquivSubring [Ring D] (x : Dˣ) :
+ MulAction.stabilizer (ConjAct Dˣ) x ≃* (Subring.centralizer ({↑x} : Set D))ˣ :=
+unitsCentralizerEquiv x
```
Comment (alreadydone) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:39]:
```suggestion
    MulAction.stabilizer (ConjAct Dˣ) x ≃* (Subring.centralizer ({↑x} : Set D))ˣ :=
  unitsCentralizerEquiv x
```

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 6]
```diff
@@ -0,0 +1,69 @@
...
+
+variable (D)
+
+/-- For a monoid, the units of the center inject into the center of the units. This is not an
+equivalence in general; one case when it is is for groups with zero, which is covered in
+`centerUnitsEquivUnitsCenter`. -/
+def unitsCenterToCenterUnits [Monoid D] : (Submonoid.center D)ˣ →* Submonoid.center (Dˣ) :=
+(Units.map (Submonoid.center D).subtype).codRestrict _ <| fun u r ↦ Units.ext <| u.1.prop r
```
Comment (alreadydone) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:47]:
```suggestion
  (Units.map (Submonoid.center D).subtype).codRestrict _ <| fun u r ↦ Units.ext <| u.1.prop r
```

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 7]
```diff
@@ -0,0 +1,69 @@
...
+ MulAction.stabilizer (ConjAct Dˣ) x ≃* (Submonoid.centralizer ({↑x} : Set D))ˣ where
+  toFun := MonoidHom.toHomUnits <|
+  ⟨⟨fun u ↦ ⟨↑(ConjAct.ofConjAct u.1 : Dˣ), by
+    rintro x ⟨rfl⟩; have : _ • _ = _ := u.2
+    rwa [ConjAct.smul_def, mul_inv_eq_iff_eq_mul, Units.ext_iff, eq_comm] at this⟩, rfl⟩,
+    fun a b ↦ rfl⟩
+  invFun u := ⟨ConjAct.toConjAct (Units.map (Submonoid.centralizer ({↑x} : Set D)).subtype u), by
+      change _ • _ = _
+      simp only [ConjAct.smul_def, ConjAct.ofConjAct_toConjAct, mul_inv_eq_iff_eq_mul]
+      exact Units.ext <| (u.1.2 x <| Set.mem_singleton _).symm⟩
```
Comment (alreadydone) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:31]: feels better if indented two spaces less (aligning with `toFun` above)

**Review by alreadydone — COMMENTED** [review]
More style nits ... hope I get them right.

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 8]
```diff
@@ -0,0 +1,69 @@
...
+such as centralizers and stabilizers. These are mainly useful to prove Wedderburn's little theorem.
+
+-/
+
+variable {D : Type*}
+
+/-- The stabilizer of `Dˣ` acting on itself by conjugation at `x : Dˣ` is exactly the
+units of the centralizer of `x : D`. -/
+def unitsCentralizerEquiv [Monoid D] (x : Dˣ) :
+    MulAction.stabilizer (ConjAct Dˣ) x ≃* (Submonoid.centralizer ({↑x} : Set D))ˣ where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:22]: I assume there's not a more general results hiding here for `MulDistribMulAction`s?

Comment (ericrbg) [reply Mathlib/Algebra/Ring/UnitEquivs.lean:22]: I'm not even sure what it'd look like

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 9]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright (c) 2021 Johan Commelin. All rights reserved.
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:2]: Is this a copy-paste error?
```suggestion
Copyright (c) 2023 Eric Rodriguez. All rights reserved.
```
Same remark for `Authors` field on line 4, though maybe this is co-authored?

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 10]
```diff
@@ -0,0 +1,69 @@
...
+variable {D : Type*}
+
+/-- The stabilizer of `Dˣ` acting on itself by conjugation at `x : Dˣ` is exactly the
+units of the centralizer of `x : D`. -/
+def unitsCentralizerEquiv [Monoid D] (x : Dˣ) :
+    MulAction.stabilizer (ConjAct Dˣ) x ≃* (Submonoid.centralizer ({↑x} : Set D))ˣ where
+  toFun := MonoidHom.toHomUnits <|
+  ⟨⟨fun u ↦ ⟨↑(ConjAct.ofConjAct u.1 : Dˣ), by
+    rintro x ⟨rfl⟩; have : _ • _ = _ := u.2
+    rwa [ConjAct.smul_def, mul_inv_eq_iff_eq_mul, Units.ext_iff, eq_comm] at this⟩, rfl⟩,
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:26]:
```suggestion
    ⟨⟨fun u ↦
      ⟨↑(ConjAct.ofConjAct u.1 : Dˣ), by
        rintro x ⟨rfl⟩
        have : (u : ConjAct Dˣ) • x = x := u.2
        rwa [ConjAct.smul_def, mul_inv_eq_iff_eq_mul, Units.ext_iff, eq_comm] at this⟩,
      rfl⟩,
```

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 11]
```diff
@@ -0,0 +1,69 @@
...
+    exact Units.ext <| (u.1.2 x <| Set.mem_singleton _).symm⟩
+  left_inv _ := by ext; rfl
+  right_inv _ := by ext; rfl
+  map_mul' := map_mul _
+
+/-- `unitsCentralizerEquiv` for a `Ring`. Restated for Wedderburn's little theorem. -/
+def unitsCentralizerEquivSubring [Ring D] (x : Dˣ) :
+    MulAction.stabilizer (ConjAct Dˣ) x ≃* (Subring.centralizer ({↑x} : Set D))ˣ :=
+  unitsCentralizerEquiv x
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:40]: I don't understand why we need this. Can you not just use what you have for `Monoid`s?

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 12]
```diff
@@ -0,0 +1,69 @@
...
+This file makes a couple equivalences that deal with unit groups under various other operations,
+such as centralizers and stabilizers. These are mainly useful to prove Wedderburn's little theorem.
+
+-/
+
+variable {D : Type*}
+
+/-- The stabilizer of `Dˣ` acting on itself by conjugation at `x : Dˣ` is exactly the
+units of the centralizer of `x : D`. -/
+def unitsCentralizerEquiv [Monoid D] (x : Dˣ) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:21]: I'd use the name `unitsCentralizerEquiv` (or even `unitsCentralizerMulEquiv`) if the equiv went in the other direction. So I think either rename:
```suggestion
def stabilizerConjActUnitsMulEquiv [Monoid D] (x : Dˣ) :
```
or flip the sides.

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 13]
```diff
@@ -0,0 +1,69 @@
...
+      exact congrArg Units.val <| u.2 <| Units.mk0 r hr⟩, rfl⟩, fun _ _ ↦ rfl⟩
+  invFun u := unitsCenterToCenterUnits D u
+  left_inv _ := by ext; rfl
+  right_inv _ := by ext; rfl
+  map_mul' := map_mul _
+
+/-- `centerUnitsEquivUnitsCenter` but instead for `Subring.center`. This is convenient for
+Wedderburn's little theorem. -/
+def centerUnitsEquivUnitsRingCenter [DivisionRing D] :
+    Subgroup.center (Dˣ) ≃* (Subring.center D)ˣ := centerUnitsEquivUnitsCenter D
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:69]: Same question here: it's not clear to me why you need this.

File: Mathlib/Algebra/Ring/UnitEquivs.lean [hunk 14]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright (c) 2021 Johan Commelin. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Eric Rodriguez, Johan Commelin
+-/
+import Mathlib.GroupTheory.GroupAction.ConjAct
+import Mathlib.RingTheory.Subring.Basic
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/UnitEquivs.lean:7]: This import is only necessary because of `unitsCentralizerEquivSubring` and `centerUnitsEquivUnitsRingCenter` about which I have doubts.

If it turns out we don't need those lemmas then I think these results could go in the `GroupTheory.GroupAction.ConjAct` file.

File: Mathlib/Algebra/Ring/UnitEquivs.lean (hunk 12 above)
Comment (ericrbg) [reply Mathlib/Algebra/Ring/UnitEquivs.lean:21]: I had to flip this in a weird way - using `MulEquiv.symm`; feel free to try flip it manually and see if you understand what's breaking! (Also note that `map_mul` is no longer as trivial, but that doesn't seem to be the issue...)

**Comment by ericrbg** [comment]
The reason I want the ring versions are to do with the proof of little wedderburn; you can see the WIP [here](https://github.com/leanprover-community/mathlib4/compare/LittleWedderburn?expand=1). I tried messing around with the proof to change things, and it should be fine but minorly annoying; some slight motive issues as we'd need to rewrite in `Fintype.card` stuff, but this can in theory be done. Or I could just construct the "upgraded" equivalences there, within the proof, but then that technically amounts to defeq abuse.

**Comment by ericrbg** [comment]
Alright, I'll change it to that version then

File: Mathlib/GroupTheory/Submonoid/Center.lean [hunk 15]
```diff
@@ -97,5 +97,17 @@ end
 
 end Submonoid
 
+variable (M)
+
+/-- For a monoid, the units of the center inject into the center of the units. This is not an
+equivalence in general; one case when it is is for groups with zero, which is covered in
+`centerUnitsEquivUnitsCenter`. -/
+def unitsCenterToCenterUnits [Monoid M] : (Submonoid.center M)ˣ →* Submonoid.center (Mˣ) :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Center.lean:105]:
```suggestion
@[simps]
def unitsCenterToCenterUnits [Monoid M] : (Submonoid.center M)ˣ →* Submonoid.center (Mˣ) :=
```
or manual lemma(s) if the result is bad.

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 16]
```diff
@@ -2076,6 +2076,19 @@ theorem center_toSubmonoid : (center G).toSubmonoid = Submonoid.center G :=
...
 #align add_subgroup.center_to_add_submonoid AddSubgroup.center_toAddSubmonoid
 
+/-- For a group with zero, the center of the units is the same as the units of the center. -/
+def centerUnitsEquivUnitsCenter (G₀ : Type*) [GroupWithZero G₀] :
+    Subgroup.center (G₀ˣ) ≃* (Submonoid.center G₀)ˣ where
+  toFun := MonoidHom.toHomUnits <|
+    ⟨⟨fun u ↦ ⟨(u : G₀ˣ), fun r ↦ by
+      rcases eq_or_ne r 0 with (rfl | hr)
+      · rw [mul_zero, zero_mul]
+      exact congrArg Units.val <| u.2 <| Units.mk0 r hr⟩, rfl⟩, fun _ _ ↦ rfl⟩
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:2086]: Anonymous constructors are pretty cursed (in terms of readability) for morphisms now that structures are nested:
```suggestion
    { toFun := fun u ↦ ⟨(u : G₀ˣ), fun r ↦ by
        rcases eq_or_ne r 0 with (rfl | hr)
        · rw [mul_zero, zero_mul]
        exact congrArg Units.val <| u.2 <| Units.mk0 r hr⟩
      map_one' := rfl
      map_mul' := fun _ _ ↦ rfl }
```

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 17]
```diff
@@ -2076,6 +2076,19 @@ theorem center_toSubmonoid : (center G).toSubmonoid = Submonoid.center G :=
 #align subgroup.center_to_submonoid Subgroup.center_toSubmonoid
 #align add_subgroup.center_to_add_submonoid AddSubgroup.center_toAddSubmonoid
 
+/-- For a group with zero, the center of the units is the same as the units of the center. -/
+def centerUnitsEquivUnitsCenter (G₀ : Type*) [GroupWithZero G₀] :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:2080]:
```suggestion
@[simps]
def centerUnitsEquivUnitsCenter (G₀ : Type*) [GroupWithZero G₀] :
```
or similar, again checking the lemmas look ok.

**Review by eric-wieser — APPROVED** [review]
Thanks!

bors d+

Please take a look at the module docstrings for these files and decide if the new results are interesting enough to mention in them.

File: Mathlib/GroupTheory/Subgroup/Basic.lean (hunk 17 above)
Comment (ericrbg) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:2080]: I had removed this earlier, because I didn't particularly like the options it gave me before. I tried `simps!` (which I've never seen before) and it seems to have gone a bit too far:

```lean
[simps.verbose] adding projection Subgroup.val_centerUnitsEquivUnitsCenter_apply_coe:
      ∀ (G₀ : Type u_5) [inst : GroupWithZero G₀] (a : { x // x ∈ Subgroup.center G₀ˣ }),
        ↑↑(↑(Subgroup.centerUnitsEquivUnitsCenter G₀) a) = ↑↑a 

[simps.verbose] adding projection Subgroup.val_inv_centerUnitsEquivUnitsCenter_apply_coe:
      ∀ (G₀ : Type u_5) [inst : GroupWithZero G₀] (a : { x // x ∈ Subgroup.center G₀ˣ }),
        ↑↑(↑(Subgroup.centerUnitsEquivUnitsCenter G₀) a)⁻¹ = (↑↑a)⁻¹ 

[simps.verbose] adding projection Subgroup.val_centerUnitsEquivUnitsCenter_symm_apply_coe:
      ∀ (G₀ : Type u_5) [inst : GroupWithZero G₀] (u : { x // x ∈ Submonoid.center G₀ }ˣ),
        ↑↑(↑(MulEquiv.symm (Subgroup.centerUnitsEquivUnitsCenter G₀)) u) = ↑↑u 

[simps.verbose] adding projection Subgroup.val_inv_centerUnitsEquivUnitsCenter_symm_apply_coe:
      ∀ (G₀ : Type u_5) [inst : GroupWithZero G₀] (u : { x // x ∈ Submonoid.center G₀ }ˣ),
        ↑(↑(↑(MulEquiv.symm (Subgroup.centerUnitsEquivUnitsCenter G₀)) u))⁻¹ = ↑↑u⁻¹ 
```

So I will add the first and the third manually

Comment (ericrbg) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:2080]: actually, screw it, I'll just use `simps!` as long as Lean doesn't complain

Comment (eric-wieser) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:2080]: You can use `@[simps val_apply_coe val_symm_apply_coe]` to request it only generate those ones (or some similar syntax)

File: Mathlib/GroupTheory/Submonoid/Center.lean (hunk 15 above)
Comment (ericrbg) [reply Mathlib/GroupTheory/Submonoid/Center.lean:105]: I also added `to_additive`!

File: Mathlib/GroupTheory/Subgroup/Basic.lean (hunk 17 above)
Comment (ericrbg) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:2081]: I guess that doesn't work so well with the `to_additive (attr := simps!)`?

Comment (ericrbg) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:2081]: ah, it does, ends up being `apply_coe_val`
